US07820654B2
Step (ii). Synthesis of 4-(3-chloro-4-methoxy-phenyl)-6-pyridin-3-yl-pyrimidin-2-ylamine
4-(3-Chloro-4-methoxy-phenyl)-6-pyridin-3-yl-pyrimidin-2-yl amine was prepared by treateing 1-(3-chloro-4-methoxy-phenyl)-3-pyridin-3-yl-propane-1,3-dione (0.3 g, 1.0 mmol) with guanidine carbonate (0.21 g, 1.1 mmol) in dowtherm (7 mL) at 180° C. for 30 minutes. The mixture was cooled to temperature in the range of 20-40° C. and diluted with petroleum ether (25 mL). The mixture was stirred for 1 hour. The solid was filtered and dried to give the desired product.

reactant | 1-(3-chloro-4-methoxy-phenyl)-3-pyridin-3-yl-propane-1,3-dione | 1.0 mmol, 0.3 g | ClC=1C=C(C=CC1OC)C(CC(=O)C=1C=NC=CC1)=O | C15H12ClNO3
reactant | guanidine carbonate | 1.1 mmol, 0.21 g | C(O)(O)=O.NC(=N)N
solvent | dowtherm | 7 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 4-(3-chloro-4-methoxy-phenyl)-6-pyridin-3-yl-pyrimidin-2-ylamine | ClC=1C=C(C=CC1OC)C1=NC(=NC(=C1)C=1C=NC=CC1)N | C16H13ClN4O
